US05130482
S-atenolol (optical purity, 91 % ee, 4.43 g) and p-toluic acid (2.28 g) are dissolved in acetone (300 ml) by heating, and the mixture is allowed to stand overnight at room temperature. The precipitated crystals are separated by filtration, and the filtrate is concentrated under reduced pressure to give S-atenolol toluate having an optical purity of 98.8% ee (5.01 g).

reactant | S-atenolol | 4.43 g | CC(C)NC[C@@H](COC=1C=CC(=CC1)CC(=O)N)O | C14H22N2O3
reactant | p-toluic acid | 2.28 g | CC=1C=CC(=CC1)C(=O)O | C8H8O2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | S-atenolol toluate | CC(C)NC[C@@H](COC=1C=CC(=CC1)CC(=O)N)O.C=1(C(=CC=CC1)C(=O)[O-])C | InChI=1S/C14H22N2O3.C8H8O2/c1-10(2)16-8-12(17)9-19-13-5-3-11(4-6-13)7-14(15)18;1-6-4-2-3-5-7(6)8(9)10/h3-6,10,12,16-17H,7-9H2,1-2H3,(H2,15,18);2-5H,1H3,(H,9,10)/p-1/t12-;/m0./s1
